US05731125
In 80 g of propylene glycol monomethyl ether were dissolved 78 g (0.5 mole) of tetrahydropyranyl acrylate and 42 g (0.5 mole) of methyl methacrylate, and 3 g of azobisisobutyronitrile was added thereto, after which they were subjected to polymerization for 10 hours under a nitrogen atmosphere while the reaction temperature was kept at 80° C. After the polymerization, the reaction mixture was dropped into a large amount of water to coagulate a resin. The resin was recovered and dried in a vacuum drier kept at 50° C. overnight to obtain 96 g of a white fine powder of tetrahydropyranyl acrylate/methyl methacrylate copolymer resin.

reactant | tetrahydropyranyl acrylate | 0.5 mole, 78 g | C(C=C)(=O)OC1OCCCC1 | C8H12O3
reactant | methyl methacrylate | 0.5 mole, 42 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | azobisisobutyronitrile | 3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | water | O | H2O
solvent | propylene glycol monomethyl ether | 80 g | COCC(C)O | C4H10O2
product | tetrahydropyranyl acrylate methyl methacrylate | C(C=C)(=O)OC1OCCCC1.C(C(=C)C)(=O)OC | InChI=1S/C8H12O3.C5H8O2/c1-2-7(9)11-8-5-3-4-6-10-8;1-4(2)5(6)7-3/h2,8H,1,3-6H2;1H2,2-3H3
